US06054457
To an ice bath cooled solution of methyl 2-(3-hydroxyprop-1-yl)thiobenzoate (3.7 g) in N,N-dimethylformamide (30 ml) was added sodium hydride (60% in oil, 719 mg) and the solution was stirred at the same temperature for 30 minutes. 4-Methoxybenzyl chloride (2.56 g) was added to the solution and the mixture was stirred at ambient temperature for 5 hours. The mixture was diluted with ethyl acetate (100 ml) and the solution was washed with water and brine. The organic phase was dried over magnesium sulfate and the solvent was evaporated in vacuo to give a crude oil. The crude product was purified by silica gel column chromatography (hexane: ethyl acetate=10:1) to give methyl 2-[3-(4-methoxyphenyl)methoxyprop-1-yl]thiobenzoate (2.13 g).

reactant | methyl 2-(3-hydroxyprop-1-yl)thiobenzoate | 3.7 g | OCCCC1=C(C(=S)OC)C=CC=C1 | C11H14O2S
reactant | sodium hydride | 719 mg | [H-].[Na+]
reactant | 4-Methoxybenzyl chloride | 2.56 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | methyl 2-[3-(4-methoxyphenyl)methoxyprop-1-yl]thiobenzoate | 2.13 g | COC1=CC=C(C=C1)COCCCC1=C(C(=S)OC)C=CC=C1 | C19H22O3S
